US07842688B2
a) tert-butyl 4-[4-(3-benzyloxypropoxy)phenyl]-3-[3-(3-methoxypropoxy)benzyloxy]piperidine-1-carboxylate
Analogously to Method D, 0.238 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.122 g of 1-chloromethyl-3-methoxy-5-(3-methoxypropoxy)benzene are reacted. The title compound is obtained as a colourless oil. Rf=0.42 (1:1 EtOAc-heptane); Rt=6.19.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.238 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 1-chloromethyl-3-methoxy-5-(3-methoxypropoxy)benzene | 0.122 g | ClCC1=CC(=CC(=C1)OCCCOC)OC | C12H17ClO3
product | tert-butyl 4-[4-(3-benzyloxypropoxy)phenyl]-3-[3-(3-methoxypropoxy)benzyloxy]piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC(=CC=C1)OCCCOC | C37H49NO7
